US07842685B2
A mixture of lithium hydroxide hydrate (66.4 mg, 1582 μmol) and methyl 1-((4-(5-benzoylthiazolo[5,4-b]pyridine-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate (233.0 mg, 505 μmol) in THF (12.6 mL) and water (1.7 mL) was stirred at 25° C. for 1.5 h. The reaction mixture was then diluted with water (1.0 mL), acidified with 1.0N HCl (1.58 mL), brought to pH 6 with 0.05M phosphate buffer (1.0 mL), and partially concentrated in vacuo. The resulting precipitate was collected by vacuum filtration, washed with water (3.0 mL), and dried in vacuo to afford 1-((4-(5-benzoylthiazolo[5,4-b]pyridine-2-yl)-3-fluorophenyl)methyl)-azetidine-3-carboxylic acid as a colorless solid. MS (ESI) m/z: Calculated: 447.1; Observed: 448.0 (M++1).

reactant | lithium hydroxide hydrate | 1582 μmol, 66.4 mg | O.[OH-].[Li+]
reactant | methyl 1-((4-(5-benzoylthiazolo[5,4-b]pyridine-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate | 505 μmol, 233.0 mg | C(C1=CC=CC=C1)(=O)C1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)OC)F | C25H20FN3O3S
reactant | HCl | 1.0N, 1.58 mL | Cl | ClH
reactant | phosphate | 0.05M, 1.0 mL | P(=O)([O-])([O-])[O-]
solvent | THF | 12.6 mL | C1CCOC1 | C4H8O
solvent | water | 1.7 mL | O | H2O
solvent | water | 1.0 mL | O | H2O
product | 1-((4-(5-benzoylthiazolo[5,4-b]pyridine-2-yl)-3-fluorophenyl)methyl)-azetidine-3-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)O)F | C24H18FN3O3S
